US03946009
A mixture of 0.1 mole of 2,3-dichloropyrazine and 2.3 g. (0.1 mole) of sodium in 160 ml. of anhydrous methanol is refluxed 5-10 hours, and poured into water. The product is extracted with ether or chloroform and recrystallized from a suitable solvent such as ethanol to give pure 2-chloro-3-methoxypyrazine.

reactant | 2,3-dichloropyrazine | 0.1 mole | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | sodium | 0.1 mole | [Na] | Na
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 2-chloro-3-methoxypyrazine | ClC1=NC=CN=C1OC | C5H5ClN2O
